US06924374B2
1-Butyl-4-(4-Methyl-3-nitro-phenyl)-piperazine
Beginning with 1-(4-methyl-3-nitro-phenyl)-piperazine and 1-butylbromide, the title compound was recovered by the procedure described in Example 2. MS m/z (rel. intensity, 70 eV) 277 (M+, 23), 234 (bp), 191 (17), 70 (64), 56 (33).

reactant | 1-(4-methyl-3-nitro-phenyl)-piperazine | CC1=C(C=C(C=C1)N1CCNCC1)[N+](=O)[O-] | C11H15N3O2
reactant | 1-butylbromide | C(CCC)Br | C4H9Br
product | 1-Butyl-4-(4-Methyl-3-nitro-phenyl)-piperazine | C(CCC)N1CCN(CC1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C15H23N3O2
